US07754757B2
In a similar manner to Example 8, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg) and 4-methylbenzyl bromide (18.9 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-(4-methylbenzyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (9.2 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-methylbenzyl bromide | 18.9 mg | CC1=CC=C(CBr)C=C1 | C8H9Br
product | (2S,4S)-4-fluoro-1-[[N-[4-(4-methylbenzyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 9.2 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)OCC2=CC=C(C=C2)C)=O)C#N | C24H30FN3O3
